data/polar.json
{"reaction_name": "Aldol addition", "rsmi": "[CH2-:1][C:6]([CH3:2])=[O:3].[O:4]=[CH:7][CH3:5]>>[CH2:1]([C:6]([CH3:2])=[O:3])[CH:7]([O-:4])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Pi-/LP+", [4, 7], [4]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:1]([C:24](=[O:29])[c:31]1[cH:11][cH:37][c:30]([N:36]([CH3:32])[CH3:33])[cH:38][cH:12]1)=[S:39]([CH3:14])[CH3:15].[O:2]=[S:16](=[O:3])([N:13]([S:10][C:6]([F:7])([F:8])[F:9])[S:17](=[O:4])(=[O:5])[c:35]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:34]1[cH:18][cH:25][cH:22][cH:26][cH:19]1>>[CH:1]([S:10][C:6]([F:7])([F:8])[F:9])([C:24](=[O:29])[c:31]1[cH:11][cH:37][c:30]([N:36]([CH3:32])[CH3:33])[cH:38][cH:12]1)[S+:39]([CH3:14])[CH3:15].[O:2]=[S:16](=[O:3])([N-:13][S:17](=[O:4])(=[O:5])[c:35]1[cH:20][cH:27][cH:23][cH:28][cH:21]1)[c:34]1[cH:18][cH:25][cH:22][cH:26][cH:19]1", "epd": [["Pi-/Sigma+", [1, 39], [1, 10]], ["Sigma-/LP+", [10, 13], [13]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:21]1[cH:18][c:24]([N+:28](=[O:17])[O-:36])[cH:29][c:20]2[c:39]1[n:26][o:37][n+:41]2[O-:15])[O-:25].[c:3]1([P:19]([c:4]2[cH:11][cH:32][cH:7][cH:33][cH:12]2)([c:5]2[cH:13][cH:34][cH:8][cH:35][cH:14]2)=[CH:38][C:27]([O:22][CH2:16][CH3:40])=[O:23])[cH:9][cH:30][cH:6][cH:31][cH:10]1>>[N+:1](=[O:2])([C:21]1=[CH:18][C:24](=[N+:28]([O-:17])[O-:36])[CH:29]([CH:38]([P+:19]([c:3]2[cH:9][cH:30][cH:6][cH:31][cH:10]2)([c:4]2[cH:11][cH:32][cH:7][cH:33][cH:12]2)[c:5]2[cH:13][cH:34][cH:8][cH:35][cH:14]2)[C:27]([O:22][CH2:16][CH3:40])=[O:23])[c:20]2[c:39]1[n:26][o:37][n+:41]2[O-:15])[O-:25]", "epd": [["Pi-/Sigma+", [38, 19], [38, 29]], ["Pi-/Pi+", [29, 24], [24, 28]], ["Pi-/LP+", [28, 17], [17]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[S-:1][c:10]1[cH:2][cH:27][cH:23][c:12]([C:28]([F:7])([F:8])[F:9])[cH:11]1.[cH:3]1[c:13]([CH+:26][c:14]2[cH:4][c:17]([F:21])[cH:25][c:18]([F:22])[cH:5]2)[cH:6][c:15]([F:19])[cH:24][c:16]1[F:20]>>[S:1]([c:10]1[cH:2][cH:27][cH:23][c:12]([C:28]([F:7])([F:8])[F:9])[cH:11]1)[CH:26]([c:13]1[cH:3][c:16]([F:20])[cH:24][c:15]([F:19])[cH:6]1)[c:14]1[cH:4][c:17]([F:21])[cH:25][c:18]([F:22])[cH:5]1", "epd": [["LP-/Sigma+", [1], [1, 26]]]}
{"reaction_name": "Nitrile alcohol addition step", "rsmi": "[N:2]#[C:4][CH3:5].[O-:1][CH3:3]>>[O:1]([CH3:3])[C:4](=[N-:2])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [2, 4], [2]]]}
{"reaction_name": "Claisen condensation", "rsmi": "[CH2:2]([C:12](=[O:4])[O:7][CH2:14][CH3:10])[H:16].[CH2:5]([CH3:8])[O-:15].[CH3:1][C:11](=[O:3])[O:6][CH2:13][CH3:9]>>[CH2:5]([CH3:8])[O:15][H:16].[CH3:1][C:11]([CH2:2][C:12](=[O:4])[O:7][CH2:14][CH3:10])=[O:3].[O-:6][CH2:13][CH3:9]", "epd": [["LP-/Sigma+", [15], [15, 16]], ["Sigma-/Sigma+", [2, 16], [2, 11]], ["Pi-/LP+", [3, 11], [3]], ["LP-/Pi+", [3], [3, 11]], ["Sigma-/LP+", [6, 11], [6]]]}
{"reaction_name": "Triazene substitution by electrophile", "rsmi": "[H:14][Br:13].[c:1]1([N:2]=[N:3][N:4]([CH3:5])[CH3:6])[cH:7][cH:8][cH:9][cH:10][cH:11]1.[Br:12][Br:15]>>[c:1]1([Br:12])[cH:7][cH:8][cH:9][cH:10][cH:11]1.[N:2]#[N:3].[N:4]([CH3:5])([CH3:6])[H:14].[Br:13][Br:15]", "epd": [["LP-/Sigma+", [12], [1, 12]], ["Sigma-/LP+", [1, 2], [2]], ["LP-/Pi+", [2], [2, 3]], ["Sigma-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 14]], ["Sigma-/LP+", [13, 14], [13]], ["LP-/Sigma+", [13], [13, 15]], ["Sigma-/LP+", [12, 15], [12]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[c:21]2[cH:20][cH:4][cH:2][cH:9][c:23]2[cH-:3][cH:22]1.[cH:5]1[c:10]([CH+:26][c:11]2[cH:6][c:14]([F:18])[cH:25][c:15]([F:19])[cH:7]2)[cH:8][c:12]([F:16])[cH:24][c:13]1[F:17]>>[CH:1]1=[CH:22][CH:3]([CH:26]([c:10]2[cH:5][c:13]([F:17])[cH:24][c:12]([F:16])[cH:8]2)[c:11]2[cH:6][c:14]([F:18])[cH:25][c:15]([F:19])[cH:7]2)[c:23]2[cH:9][cH:2][cH:4][cH:20][c:21]21", "epd": [["LP-/Sigma+", [3], [3, 26]]]}
{"reaction_name": "Halohydrin formation", "rsmi": "[CH2:1]=[CH:3][CH3:5].[OH:2][Br:4]>>[CH2:1]([CH:3]([OH:2])[CH3:5])[Br:4]", "epd": [["Pi-/Sigma+", [1, 3], [1, 4]], ["Sigma-/Sigma+", [2, 4], [2, 3]]]}
{"reaction_name": "Carbocation capture by water", "rsmi": "[C+:2]([CH3:3])([CH3:4])[CH3:5].[OH2:1]>>[OH2+:1][C:2]([CH3:3])([CH3:4])[CH3:5]", "epd": [["LP-/Sigma+", [1], [1, 2]]]}
